US09210927B2
Preparation of (E)-1-(4-(3-(3,5-Dichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)phenyl)-1H-1,2,4-triazole (DC1)
To a stirred solution of 1-(1-bromo-2,2,2-trifluoro-ethyl)-3,5-dichloro-benzene (2.0 g, 6.51 mmol) in 1,2-dichlorobenzene (25 mL), were added 1-(4-vinyl-phenyl)-1H-[1,2,4]triazole (2.22 g, 13.0 mmol), CuCl (64 mg, 0.65 mmol) and 2,2-bipyridyl (0.2 g, 1.3 mmol). The resultant reaction mixture was degassed with argon for 30 min, then stirred at 180° C. for 24 h. After completion of reaction (TLC), the reaction mixture was cooled to ambient temperature and filtered and the filtrate concentrated under reduced pressure. Purification by flash chromatography (SiO2, 100-200 mesh; 25-30% EtOAc in petroleum ether) afforded the title compound as an off-white solid (0.8 g, 32%): mp 93-97° C.; 1H NMR (300 MHz, CDCl3) δ 8.56 (s, 1H), 8.11 (s, 1H), 7.68 (d, J=8.4 Hz, 2H), 7.54 (d, J=8.4 Hz, 2H), 7.38 (t, J=1.8 Hz, 1H), 7.29 (s, 2H), 6.62 (d, J=15.6 Hz, 1H), 6.42 (dd, J=15.6, 8.2 Hz, 1H), 4.15 (m, 1H); ESIMS m/z 398.05 ([M+H]+).

reactant | 1-(1-bromo-2,2,2-trifluoro-ethyl)-3,5-dichloro-benzene | 6.51 mmol, 2.0 g | BrC(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C8H4BrCl2F3
reactant | 1-(4-vinyl-phenyl)-1H-[1,2,4]triazole | 13.0 mmol, 2.22 g | C(=C)C1=CC=C(C=C1)N1N=CN=C1 | C10H9N3
reactant | 2,2-bipyridyl | 1.3 mmol, 0.2 g | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
solvent | 1,2-dichlorobenzene | 25 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | CuCl | 0.65 mmol, 64 mg | Cl[Cu]
product | (E)-1-(4-(3-(3,5-Dichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)phenyl)-1H-1,2,4-triazole | 0.8 g, 32% | ClC=1C=C(C=C(C1)Cl)C(/C=C/C1=CC=C(C=C1)N1N=CN=C1)C(F)(F)F | C18H12Cl2F3N3
